US09416101B2
4-(chlorosulfonyl)benzoic acid (500 mg, 2.27 mmol) was treated with 6-methoxy-1,2,3,4-tetrahydroquinoline (1.0 g, 6.13 mmol) using method A to give 4-(6-methoxy-3,4-dihydroquinolin-1(2H)-ylsulfonyl)benzoic acid as an off-white solid. Yield: 358 mg (46%). 1H-NMR: 8.04 (d, J=8.5 Hz, 2H), 7.64 (d, J=8.5 Hz, 2H), 7.52 (d, J=9.0 Hz, 1H), 6.81 (dd, J=9.0, 3.0 Hz, 1H), 6.65 (d, J=3.0 Hz, 1H), 3.75-3.70 (m, 5H), 2.29 (t, J=7.0 Hz, 2H), 1.53-1.45 (m, 2H).

reactant | 4-(chlorosulfonyl)benzoic acid | 2.27 mmol, 500 mg | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | 6-methoxy-1,2,3,4-tetrahydroquinoline | 6.13 mmol, 1.0 g | COC=1C=C2CCCNC2=CC1 | C10H13NO
product | 4-(6-methoxy-3,4-dihydroquinolin-1(2H)-ylsulfonyl)benzoic acid | COC=1C=C2CCCN(C2=CC1)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C17H17NO5S
